US08580824B2
4-Allyloxy-3-chloro-N-hydroxy-5-methyl-benzamidine
The title compound is prepared in analogy to 4-allyloxy-3-ethyl-N-hydroxy-5-methyl-benzamidine starting from commercially available 3-chloro-4-hydroxy-5-methyl-benzaldehyde; LC-MS: tR=0.69 min, [M+1]+=241.10.

reactant | 4-allyloxy-3-ethyl-N-hydroxy-5-methyl-benzamidine | C(C=C)OC1=C(C=C(C(=N)NO)C=C1C)CC | C13H18N2O2
reactant | 3-chloro-4-hydroxy-5-methyl-benzaldehyde | ClC=1C=C(C=O)C=C(C1O)C | C8H7ClO2
product | 4-Allyloxy-3-chloro-N-hydroxy-5-methyl-benzamidine | C(C=C)OC1=C(C=C(C(=N)NO)C=C1C)Cl | C11H13ClN2O2
